Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3],3.2922974955
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.5608472947499998
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11][H:12],1.45845065477
[H:1][C:2][C@:7]([O:6][C:3]([H:4])[H:5])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.18400723918
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[H:7],1.19680143168
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]2[O:8][C:9]12>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9],0.5520903003909999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1],5.72330454892
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7],1.67887047175
[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7]>>[C:1][O:2][C:3]=[C:4]=[O:5].[C:6][H:7],2.39990358491
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1],6.219318091490001
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9].[H:10],4.25686138774
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.5587085347999998
[H:5].[O:1]=[C:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.68460168534
[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[O:4])[C:9]([C:6]([C:5])([H:7])[H:8])([H:10])[H:11],0.5971341088300001
[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14][H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.30623892883
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.16714050341
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],1.9950380602
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.62032162114
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],3.73379641369
[O:1]=[C:2]([H:3])[C:5]([O:4])([H:6])[H:7]>>[O:1][C@@:2]1([H:3])[O:4][C:5]1([H:6])[H:7],0.16340773715
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:3][H:4].[O:1]=[C:2][O:5][C:6]([H:7])([H:8])[H:9],5.472439379
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.93666961809
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]=[O:6]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-1.7441988516099998
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10][H:11],3.47875458447
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-3.89245937
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[O:11][H:12],-0.771033357316
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.00423014244
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11],-3.85942794758
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.884937304669999
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:9]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.1685232251
